US06017911
100 g of (3R*,4S*,5R*)-5-allyl-1-benzyl-3,4-bis(tert-butyidimethylsilyloxy)-2-pyrrolidinone which had been prepared according to the procedure described in J. Org. Chem. 60, 103-108 (1995) by using D-tartaric acid as the starting material was added to 670 ml of tetrahydrofuran, and cooled with ice. Then, 87.1 ml of a 1.0M solution of borane-tetrahydrofuran complex in tetrahydrofuran was added thereto. After this mixture was stirred at room temperature for 1 hour, 7 ml of water was added dropwise thereto, and 33.4 ml of a 5N aqueous solution of sodium hydroxide was added at a time. Then, 33.4 ml of a 30% aqueous solution of hydrogen peroxide was added thereto at such a rate as to give a reaction temperature of 30-50° C., followed by stirring overnight. Thereafter, water and ethyl acetate were added to the reaction mixture so as to extract the product in an organic layer. After this organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The resulting residue was purified by silica gel column chromatography (using chloroform as the eluent) to obtain 33.4 g of (3R*,4S*,5R*)-1-benzyl-3,4-bis(tert-butyidimethylsilyloxy)-5-(3-hydroxypropyl)-2-pyrrolidinone.

reactant | (3R*,4S*,5R*)-5-allyl-1-benzyl-3,4-bis(tert-butyidimethylsilyloxy)-2-pyrrolidinone | 100 g | C(C=C)[C@@H]1[C@@H]([C@H](C(N1CC1=CC=CC=C1)=O)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C26H45NO3Si2
reactant | D-tartaric acid | C([C@@H](O)[C@H](O)C(=O)O)(=O)O | C4H6O6
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 670 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 7 ml | O | H2O
product | (3R*,4S*,5R*)-1-benzyl-3,4-bis(tert-butyidimethylsilyloxy)-5-(3-hydroxypropyl)-2-pyrrolidinone | 33.4 g | C(C1=CC=CC=C1)N1C([C@@H]([C@H]([C@H]1CCCO)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)=O | C26H47NO4Si2
